US06472393B1
4-[1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-benzonitrile (2.7 g, 5 mmoles) was dissolved in ethanol (100 ml) and hydrazine hydrate (0.65 ml, 20 mmoles) added. The reaction was heated to 60° C. for 3 hours then at room temperature for 48 hours. The solids that precipitated were filtered off and the residue submitted to flash chromatography to yield 4-[2-Amino-1-(4-benzyloxy-5-methoxy-2-nitro-phenyl)-ethylamino]-benzonitrile (1.5 g). 1HNMR(CDCl3): 7.75 (s, 1H), 7.3-7.5 (m, 7H), 7.05 (s, 1H), 6.45 (d, 2H), 5.80 (bs, 1H), 5.32 (m, 1H), 5.19 (s, 2H), 3.81 (s, 3H), 3.25 (dd, 1H), 3.0 (dd, 1H), 1.65 (bs, 2H).

reactant | 4-[1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-benzonitrile | 5 mmoles, 2.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(CN1C(C2=CC=CC=C2C1=O)=O)NC1=CC=C(C#N)C=C1)[N+](=O)[O-] | C31H24N4O6
reactant | hydrazine hydrate | 20 mmoles, 0.65 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[2-Amino-1-(4-benzyloxy-5-methoxy-2-nitro-phenyl)-ethylamino]-benzonitrile | 1.5 g | NCC(C1=C(C=C(C(=C1)OC)OCC1=CC=CC=C1)[N+](=O)[O-])NC1=CC=C(C#N)C=C1 | C23H22N4O4
